US07569563B2
(3S)-N-(2,4-Dichlorobenzyl)-9,10-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxamide
The compound is prepared in analogy to the instructions of Example 37A, from (3S)-9,10-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxylic acid (for preparation: see Journal of Medicinal Chemistry 1987, 30(12), 2283-2286) and 2,4-dichlorobenzylamine.

reactant | (3S)-9,10-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxylic acid | FC=1C=C2C(C(=CN3C2=C(C1F)OC[C@@H]3C)C(=O)O)=O | C13H9F2NO4
reactant | 2,4-dichlorobenzylamine | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
product | (3S)-N-(2,4-Dichlorobenzyl)-9,10-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxamide | ClC1=C(CNC(=O)C2=CN3C4=C(C(=C(C=C4C2=O)F)F)OC[C@@H]3C)C=CC(=C1)Cl | C20H14Cl2F2N2O3
